US05137904
3-phenyl-5-[[(phenylmethyl)thio]methyl]-2-thioxo-4-imidazolidinone
When approximately equimolar amounts of S-benzylcysteine, sodium hydroxide, and phenylisothiocyanate was reacted according to the procedure described for the preparation of the compound of Example 2, the title compound herein was obtained.

reactant | S-benzylcysteine | C(C1=CC=CC=C1)SC[C@H](N)C(=O)O | C10H13NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenylisothiocyanate | C1(=CC=CC=C1)N=C=S | C7H5NS
product | 3-phenyl-5-[[(phenylmethyl)thio]methyl]-2-thioxo-4-imidazolidinone | C1(=CC=CC=C1)N1C(NC(C1=O)CSCC1=CC=CC=C1)=S | C17H16N2OS2
